* Copyright 2020 The SkyWater PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*     https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.

* SKY130 Spice File.
* statistics {
* 	mismatch {
*     	}
*         process {
* 		vary sky130_fd_pr__res_xhigh_po__var_mult dist=gauss std=0.025
* 		vary sky130_fd_pr__res_high_po__var       dist=gauss std=0.025
*         }
* }
.subckt  sky130_fd_pr__res_xhigh_po r0 r1 sub
+ w=1 l=1
.param  mult = 1.0
+ rsheet = 2000.0
+ rend_mm = {0.0472/sqrt(w)}
+ leff = {l-0.0592}
+ weff = {w-0.056}
* $  Resistor voltco fitting parameters
+ bp2 = -0.1228
+ bq2 = 1.304
+ bp22 = -0.2874
+ bp23 = 0.5252
* $  Substrate voltco fitting parameters
+ sub1 = 1.2
+ sub2 = 41.26e-3
+ sub3 = 8.697e-3
+ sub4 = 24.0
+ sub5 = 39.86
+ body_pelgrom = 0.0347
+ res_match = {(body_pelgrom/sqrt(w*l*mult))*sky130_fd_pr__res_high_po__slope_spectre}
+ rhead0 = {188.2/(weff-0.0672*max(0.69-w,0)+1.41)}
+ rbody0 = {rsheet*leff/(weff-0.0672*max(0.69-w,0))}
+ rhead = {rhead0*(1+sky130_fd_pr__res_xhigh_po__var_mult)*(1+rend_mm/sqrt(mult)*sky130_fd_pr__res_high_po__con_slope_spectre)}
+ rbody = {rbody0*(1+sky130_fd_pr__res_xhigh_po__var_mult)*(1+res_match)}
+ Efac = {1/leff*(1+bp22/w+bp23*min(0.2,leff-0.5)*log(leff/w))}
rend1 r0 t1 reshead r = {rhead}
+ tc1 = -4.3e-4
+ tc2 = -1.3e-5
*+ tnom = 25.0
rend2 t2 r1 reshead r = {rhead}
+ tc1 = -4.3e-4
+ tc2 = -1.3e-5
*+ tnom = 25.0
xc0 r0 r1 sub sky130_fd_pr__model__parasitic__res_po w = {w} l = {l}
rbody t1 t2 r = {rbody*(1-bp2+bp2*sqrt(1+(bq2*abs(v(t1,t2))*Efac)**2))*
+ (sub1+sub2*tanh(sub3*(min(v(r0,sub)+v(r1,sub),sub4)+sub5))) / (sub1+sub2*tanh(sub3*sub5)) }
+ tc1 = -1.47e-3
+ tc2 = 2.7e-6
*+ tnom = 25.0
.model resbody r tc1 = {-1.47e-3-5e-7*sky130_fd_pr__res_xhigh_po__var_mult*rsheet} tc2 = 2.7e-6 tnom = 25.0
.model reshead r tc1 = -4.3e-4 tc2 = -1.3e-5 tnom = 25.0
.ends sky130_fd_pr__res_xhigh_po
